*Analise do t2
.options savecurrents

R1   1    2   1.02166163214 
R2   2    3   2.05713464724 
R3   2    5   3.10288701080 
R4  GND   5   4.16870321182 
R5   5    6   3.01167607597 
R6  GND  7.1  2.04520070018 
Ve  7.1  7.2  0.00000000000
R7  7.2   8   1.02576029486 

C    6    8   1.00334118042

Hc  5 8  Ve   8.29202733390
Gb  5 3 (2,5) 7.24529394385m 

*C  = 1.00334118042 
*Kb = 7.24529394385 
*Kd = 8.29202733390 

*alternada, ver como escrever Vs = 5.24841080700 
*ajudem a descobrir o que e pedido no Vs pffv


.control
	
op

echo "op_TAB"
print all
echo "op_END"
quit

.endc



